data/oMe_Silver.jsonl
{"reaction_id": "NR-241_1-c1ccc(C(F)(F)F)cc1_2-CC_3-CC(F)(F)F_4-CC(F)(F)F","level": "medium","name": "Still-Gennari Reaction","reactants_smiles": ["c1ccc(C(F)(F)F)cc1C(=O)[H]","CCOC(=O)CP(=O)(OCC(F)(F)F)(OCC(F)(F)F)","[N-]([Si](C)(C)C)[Si](C)(C)C"],"products_smiles": ["c1ccc(C(F)(F)F)cc1/C=C\\C(=O)OCC"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CCOC(=O)[CH-]P(=O)(OCC(F)(F)F)(OCC(F)(F)F)","step_weight": 0,"rationale": "The strong, non-nucleophilic base removes the acidic α-proton next to the phosphonate, stabilized by electron-withdrawing ester and phosphoryl groups via resonance and inductive effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCOC(=O)C(P(=O)(OCC(F)(F)F)(OCC(F)(F)F))C([O-])c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond and minimal steric hindrance."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCOC(=O)C1C(c1ccc(C(F)(F)F)cc1)OP1([O-])(OCC(F)(F)F)(OCC(F)(F)F)","step_weight": 0,"rationale": "Intramolecular cyclization to the oxaphosphetane is favored due to proximity effects and stabilization from the phosphoryl oxygen, locking in the (Z)-geometry."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(C(F)(F)F)cc1/C=C\\C(=O)OCC","step_weight": 0,"rationale": "Collapse of the oxaphosphetane eliminates the phosphate group, a good leaving group stabilized by resonance, to form the thermodynamically favored (Z)-alkene ester."}],"description": "A strong, non-nucleophilic base deprotonates the electron-withdrawing phosphonate to form a stabilized carbanion, which adds to the aldehyde. Rapid cyclization to an oxaphosphetane intermediate ensures (Z)-selectivity, followed by elimination of the phosphate to yield the (Z)-alkene ester."}
{"reaction_id": "NR-146_1-CC(C)C_2-c2ncccc2_3-c2ccc(OC)cc2","name": "Mitsunobu Reaction","level": "medium","reactants_smiles": ["[C@@H](O)(CC(C)C)(c2ncccc2)","O=C(O)c2ccc(OC)cc2","c1ccccc1P(c2ccccc2)c3ccccc3","CCOC(=O)N=NC(=O)OCC"],"products_smiles": ["[C@H](OC(=O)c2ccc(OC)cc2)(CC(C)C)(c2ncccc2)"],"conditions": "Ph3P, CCOC(=O)N=NC(=O)OCC","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1[P+](c2ccccc2)(c3ccccc3)N([N-]C(=O)OCC)C(=O)OCC","rationale": "Triphenylphosphine attacks the electrophilic azo carbonyl due to its strong nucleophilicity, forming a phosphonium intermediate stabilized by resonance with adjacent carbonyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[P+](c2ccccc2)(c3ccccc3)N(NC(=O)OCC)C(=O)OCC.[O-]C(=O)c2ccc(OC)cc2","rationale": "The acidic proton of c2ccc(OC)cc2–COOH is abstracted by the basic intermediate, driven by the stability of the resulting carboxylate anion and the favorable formation of a neutral phosphonium species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C@@H](O[P+](c1ccccc1)(c2ccccc2)c3ccccc3)(CC(C)C)(c2ncccc2).[O-]C(=O)c2ccc(OC)cc2","rationale": "The alcohol oxygen attacks the electrophilic phosphonium center, forming an oxyphosphonium intermediate; this activates the adjacent carbon for nucleophilic substitution by making it a better leaving group."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C@H](OC(=O)c2ccc(OC)cc2)(CC(C)C)(c2ncccc2)","rationale": "The carboxylate anion attacks the activated carbon in an SN2 fashion, favored by the excellent leaving ability of triphenylphosphine oxide and the reaction’s stereospecific inversion requirement."}],"description": "In the Mitsunobu reaction, triphenylphosphine activates the azo reagent to form a reactive intermediate, which deprotonates the acid to generate a nucleophilic anion. This anion then displaces the alcohol via inversion, yielding the ester product under mild, stereospecific conditions."}
